US04956359
3-(3,4-Dichlorophenoxy)-N-methyl-1-azetidinecarboxamide
A solution of 5.6 g (0.02 mole) of 3-(3,4-dichlorophenoxy)-1-azetidinecarbonyl chloride in 20 ml of tetrahydrofuran was stirred while 5 ml (0.06 mole) of 40% aqueous methylamine was added slowly, stirring was continued for 18 hr. The reaction mixture was diluted with 200 ml of ice water, and the solid which formed was collected by filtration, 6.9 g. The crude wet solid was recrystallized from ethanol/water to yield 3.65 g (66.3%) of greenish-gray plate-like crystals, m.p. 158°-159° C.

reactant | 3-(3,4-dichlorophenoxy)-1-azetidinecarbonyl chloride | 0.02 mole, 5.6 g | ClC=1C=C(OC2CN(C2)C(=O)Cl)C=CC1Cl | C10H8Cl3NO2
reactant | methylamine | 0.06 mole, 5 ml | CN | CH5N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-(3,4-Dichlorophenoxy)-N-methyl-1-azetidinecarboxamide | ClC=1C=C(OC2CN(C2)C(=O)NC)C=CC1Cl | C11H12Cl2N2O2
